US05932674
1-(2,2-Dimethoxyethyl)-3,4-dimethylpyrrole-2,5-dione
84 g (0.66 mol) of dimethylmaleic anhydride are dissolved in 150 ml of toluene, and 70 g (0.66 mol) of aminoacetaldehyde dimethyl acetal are added. The solution is heated to the boil, and the water formed is separated off by means of a water separator. When the reaction is complete, the solvent is removed by distillation, and the residue is distilled, giving 127 g (90% of theory) of the product of boiling point 160° C. at 0.03 mbar which is a single product according to TLC and GC. NMR data: 2.97 (s) 6-methyl protons, 3.34 ppm (s) 6 methoxy protons, 3.61 ppm (d) 2 methyl protons, 4.66 ppm (t) 1 acetal proton.

reactant | dimethylmaleic anhydride | 0.66 mol, 84 g | C/C/1=C(/C(=O)OC1=O)\C | C6H6O3
reactant | aminoacetaldehyde dimethyl acetal | 0.66 mol, 70 g | COC(CN)OC | C4H11NO2
reactant | water | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,2-Dimethoxyethyl)-3,4-dimethylpyrrole-2,5-dione | COC(CN1C(C(=C(C1=O)C)C)=O)OC | C10H15NO4
